US08236826B2
Production of methyl 2-[4-(5-nitropyridin-2-yloxy)phenyl]propionate
To a solution of methyl 2-[4-(5-nitropyridin-2-yloxy)phenyl]acetate (0.50 g, 1.7 mmol) in DMF (10 mL) were added 60% sodium hydride (0.153 g, 3.8 mmol) and methyl iodide (0.13 mL, 2.1 mmol), and the resulting reaction solution was stirred for 1 hour at 0° C. To the reaction solution was added saturated aqueous ammonium chloride, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated aqueous sodium chloride. The ethyl acetate layer was dried over anhydrous magnesium sulfate, evaporated, and the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=8:1), to thereby yield 0.32 g of the title compound.

reactant | methyl 2-[4-(5-nitropyridin-2-yloxy)phenyl]acetate | 1.7 mmol, 0.50 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CC(=O)OC | C14H12N2O5
reactant | sodium hydride | 3.8 mmol, 0.153 g | [H-].[Na+]
reactant | methyl iodide | 2.1 mmol, 0.13 mL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-[4-(5-nitropyridin-2-yloxy)phenyl]propionate | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)C(C(=O)OC)C | C15H14N2O5
